US05514676
A pressure flask capable of withstanding 150 psi. was added 2-amino-5-fluoro-3-nitrobenzoic acid (1.0 g, 5.0 mmol) dissolved in 6M hydrochloric acid (40 mL) and 10% palladium on carbon (100 mg). The reaction was placed in a Parr apparatus and the flask flushed three times with hydrogen leaving an internal pressure of 65 psi. The reaction was continued for 16 hours while maintaining a pressure of 65 psi. The reaction was filtered through celite, washed with cold water and the filtrate evaporated to dryness to give 2,3-diamino-5-fluorobenzoic acid dihydrochloride (962 mg, 79%) as a light brown solid.

reactant | 2-amino-5-fluoro-3-nitrobenzoic acid | 5.0 mmol, 1.0 g | NC1=C(C(=O)O)C=C(C=C1[N+](=O)[O-])F | C7H5FN2O4
reactant | hydrochloric acid | 6M, 40 mL | Cl | ClH
catalyst | palladium on carbon | 100 mg | [Pd] | Pd
product | 2,3-diamino-5-fluorobenzoic acid dihydrochloride | 962 mg, 79% | Cl.Cl.NC1=C(C(=O)O)C=C(C=C1N)F | InChI=1S/C7H7FN2O2.2ClH/c8-3-1-4(7(11)12)6(10)5(9)2-3;;/h1-2H,9-10H2,(H,11,12);2*1H
